US08058444B2
Di-tert-butyl(3-(3-(4-((pyridin-2-yloxy) methyl)benzyl)isoxazol-5-yl)pyridin-2-yl)imidodicarbonate
Under stirring at room temperature, to a solution of di-tert-butyl(3-ethinyl pyridin-2-yl)imidodicarbonate described in Preparation Example 3-1-1 (12 g), 2-(4-(2-nitro-ethyl)-benzyloxy)pyridine described in Preparation Example 1-3-4 (19.4 g), 4-dimethyl aminopyridine (230 mg), tetrahydrofuran (200 mL) was added di-tert-butyl dicarbonate (28.8 g) divided into four portions over 8 hours. After the additions were finished, stirring was carried out at room temperature for an additional 22 hours. Silica gel was added to the reaction solution and the solvent was concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (heptane:ethyl acetate=3:1 then 2:1) to obtain the title compound (11.8 g, containing approximately 70% of the target compound).

reactant | di-tert-butyl(3-ethinyl pyridin-2-yl)imidodicarbonate | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=CC=C1C#C | C17H22N2O4
reactant | 2-(4-(2-nitro-ethyl)-benzyloxy)pyridine | [N+](=O)([O-])CCC1=CC=C(COC2=NC=CC=C2)C=C1 | C14H14N2O3
reactant | di-tert-butyl dicarbonate | 28.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | Di-tert-butyl(3-(3-(4-((pyridin-2-yloxy) methyl)benzyl)isoxazol-5-yl)pyridin-2-yl)imidodicarbonate | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)COC1=NC=CC=C1 | C31H34N4O6
